US05866588
A solution of {3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-enyl}-azide (154 mg, 0.43 mmol) in methanol (10 ml) was treated with tin (II) chloride (163 mg, 0.86 mmol). The reaction showed a slight exotherm and darkened in colour. After 1 hour solvent was removed under reduced pressure to leave a green gum. The residue was treated with sodium hydroxide solution (5M) and the product extracted (×4) with diethyl ether. The combined organic extracts were combined, dried over magnesium sulphate, filtered and solvent removed to yield {3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-enyl}-amine as a brown gum (77.5 mg, 54%). 1H-NMR; δ (CDCl3), 7.43 (1H, t, J=8.1 Hz), 7.21 (3H, m), 7.09 (3H, m), 6.99 (1H, dt, J=16.3, 6.3 Hz), 6.69 (1H, d, J=8.0 Hz), 6.61 (1H, dt, J=15.6, 1.4 Hz), 3.56 (2H, dd, J=5.8, 1.3 Hz), 3.21 (2H, d, J=9.6 Hz), 2.56 (4H, m), 2.40 (3H, s), 1.79 (4H, s) and 1.71 (2H, bs).

reactant | {3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-enyl}-azide | 0.43 mmol, 154 mg | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C1=CC=CC(=N1)/C=C/CN=[N+]=[N-] | C22H25N5
reactant | tin (II) chloride | 0.86 mmol, 163 mg | [Sn](Cl)Cl
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | {3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-enyl}-amine | 77.5 mg, 54% | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C1=CC=CC(=N1)/C=C/CN | C22H27N3
